US03968226
To a rapidly stirred suspension of copper bronze (6.1 g.) in 48% HBr (975 ml.) was added over a 1 hour period and cooling to -15° a mixture of NaNO2 (195 g., 2.83 mol.) and 2-amino-5-trifluoromethyl-1,3,4-thiadiazole (103 g., 0.61 mol.) [I. Lalezari and N. Sharghi, J. Hetero. Chem. 3:336 (1966)]. The resultant mixture was stirred for 0.75 hour with ice bath cooling and for 1.5 hour without cooling. The mixture was adjusted to pH 8 using 50% NaOH and maintaining the temperature below 20°. Saturated sodium bisulfite was added until a negative starch-iodide test was obtained. The mixture was made strongly acidic with HCL and extracted with petroleum ether. The extracts were washed with water, dried (MgSO4) and evaporated to the product. Distillation gave 2-bromo-5-trifluoromethyl-1,3,4-thiadiazole; b.p 56°-57°/11 mm.

reactant | NaNO2 | 2.83 mol, 195 g | N(=O)[O-].[Na+]
reactant | 2-amino-5-trifluoromethyl-1,3,4-thiadiazole | 0.61 mol, 103 g | NC=1SC(=NN1)C(F)(F)F | C3H2F3N3S
reactant | NaOH | [OH-].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | HBr | 975 ml | Br | BrH
catalyst | copper bronze | 6.1 g | [Cu] | Cu
product | 2-bromo-5-trifluoromethyl-1,3,4-thiadiazole | BrC=1SC(=NN1)C(F)(F)F | C3BrF3N2S
